US08865725B2
10% Palladium hydroxide (0.43 g, 3 mmol) was added to a solution of 7-chloro-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (0.24 g, 0.85 mmol) and TEA (0.6 mL, 4.32 mmol) in a mixture of AcOEt and MeOH (60 mL). The mixture was hydrogenated in a Parr reactor (45 psi) at 50° C. for 16 hours. Then 10% palladium hydroxide (0.18 g, 0.43 mmol) was added and the mixture hydrogenated again in a Parr reactor (45 psi) at 50° C. for 16 hours. The mixture was hydrogenated over 5 cycles with addition of 10% palladium hydroxide (0.18 g, 0.43 mmol) every cycle. The mixture was filtered through a pad of diatomaceous earth and washed with MeOH. The solvents were evaporated in vacuo and the crude product purified by flash column chromatography (silica; 7 M solution of ammonia in MeOH in DCM with a gradient of 0/100 to 40/60). The desired fractions were collected and the solvents evaporated in vacuo to yield 2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (0.19 g, 92% yield) as a white solid.

reactant | 7-chloro-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 0.85 mmol, 0.24 g | ClC1=CC=2N(C(N1)=O)C=C(N2)COC2=CC=CC=C2 | C13H10ClN3O2
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | MeOH | 60 mL | CO | CH4O
catalyst | Palladium hydroxide | 3 mmol, 0.43 g | [OH-].[Pd+2].[OH-]
catalyst | palladium hydroxide | 0.43 mmol, 0.18 g | [OH-].[Pd+2].[OH-]
catalyst | palladium hydroxide | 0.43 mmol, 0.18 g | [OH-].[Pd+2].[OH-]
product | 2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 0.19 g, 92% yield | O(C1=CC=CC=C1)CC=1N=C2N(C(NC=C2)=O)C1 | C13H11N3O2
